US09428465B2
Step 3. Preparation of 2,4-dioxo-N-(5-phenylpentyl)pyrimidine-1-carboxamide
5-phenylpentan-1-amine (0.07 g, 0.43 mmol) was dissolved in dry dichloromethane (4.5 mL). The solution was cooled to 0° C. and saturated aqueous NaHCO3 solution (4.5 mL) was added. The biphasic mixture was stirred for 10 min at 0° C., the layers were allowed to separate then a solution of triphosgene (0.51 g, 0.52 mmol) in dry toluene (2.5 mL) was added to the organic layer. After 15 min the aqueous layer was extracted with dichloromethane (3×10 mL). The combined organic layers were dried over Na2SO4 and the solvent was removed under reduced pressure. The resulting residue was added to a solution of uracil (0.05 g, 0.43 mmol) and DMAP (0.01 g, 0.01 mmol) in dry pyridine (5 mL). The suspension was stirred at room temperature for 18 hrs. The crude was purified by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc 75:25) to afford the title compound (0.04 g, 32%) as a white solid. 1H NMR (400 MHz, DMSO-d6): 1.25-1.42 (m, 2H), 1.46-1.64 (m, 5H), 2.54-2.60 (m, 2H), 3.21-3.28 (m, 2H), 5.79 (d, J=8.38 Hz, 1H), 7.06-7.36 (m, 5H), 8.20 (d, J=8.40 Hz, 1H), 9.11 (t, J=5.65 Hz, 1H), 11.71 (s, 1H). 13C NMR (101 MHz, DMSO-d6) δ 26.18, 28.56, 30.79, 35.12, 41.81, 40.26, 103.48, 125.78, 128.11, 129.30, 139.70, 149.23, 151.13, 161.80.

reactant | 5-phenylpentan-1-amine | 0.43 mmol, 0.07 g | C1(=CC=CC=C1)CCCCCN | C11H17N
reactant | NaHCO3 | 4.5 mL | C(=O)(O)[O-].[Na+]
reactant | triphosgene | 0.52 mmol, 0.51 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | uracil | 0.43 mmol, 0.05 g | N1C(=O)NC(=O)C=C1 | C4H4N2O2
solvent | dichloromethane | 4.5 mL | ClCCl | CH2Cl2
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMAP | 0.01 mmol, 0.01 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2,4-dioxo-N-(5-phenylpentyl)pyrimidine-1-carboxamide | 0.04 g, 32% | O=C1N(C=CC(N1)=O)C(=O)NCCCCCC1=CC=CC=C1 | C16H19N3O3
